US04460579
(R)-Dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester (isomer A) (1.0 g., 2.36 mmole) is heated in 2-trimethylsilylethanol (5.58 g., 47.2 mmole) in the presence of titanium (IV) ethoxide (135 mg., 0.59 mmole). Upon completion of the reaction, the reaction mixture is diluted with ether, washed with 1N hydrochloric acid, water, saturated aqueous sodium bicarbonate, and brine, dried (MgSO4), and concentrated in vacuo. The residue is purified chromatographically on silica gel eluting with hexane/ethyl acetate (3:1) to give (R)-dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester.

reactant | (R)-Dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | C1(C=2C(C(N1C1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC)=O)=O)=CC=CC2)=O | C22H20N2O5S
reactant | 2-trimethylsilylethanol | 47.2 mmole, 5.58 g | C[Si](CCO)(C)C | C5H14OSi
solvent | ether | CCOCC | C4H10O
catalyst | titanium (IV) ethoxide | 0.59 mmole, 135 mg | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (R)-dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester | C1(C=2C(C(N1C1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC[Si](C)(C)C)=O)=O)=CC=CC2)=O | C25H28N2O5SSi
